US08309540B2
Step 3: t-Butyl[(2,2-dimethylpent-4-yn-1-yl)oxy]dimethylsilane
Imidazole (58.3 g, 857 mmol) and t-butydimethylchlorosilane (64.6 g, 429 mmol) were added to a stirred solution of 2,2-dimethylpent-4-yn-1-ol (43.7 g, 390 mmol) in DMF (195 mL), then the solution was stirred at 22° C., under N2, for 20 hours. The reaction solution was extracted with ether (3×300 mL), washed with water (100 mL), brine (75 mL), dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica gel 60 (330 g), eluting with hexane, to give the title product. 1H NMR (400 MHz, CDCl3) δ 3.29 (s, 2H); 2.10 (d, J=2.8 Hz, 2H); 1.91 (t, J=2.6 Hz, 1H); 0.90 (s, 6H); 0.86 (s, 9H); 0.00 (s, 6H) ppm.

reactant | Imidazole | 857 mmol, 58.3 g | N1C=NC=C1 | C3H4N2
reactant | t-butydimethylchlorosilane | 429 mmol, 64.6 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 2,2-dimethylpent-4-yn-1-ol | 390 mmol, 43.7 g | CC(CO)(CC#C)C | C7H12O
solvent | DMF | 195 mL | CN(C)C=O | C3H7NO
product | t-Butyl[(2,2-dimethylpent-4-yn-1-yl)oxy]dimethylsilane | C(C)(C)(C)[Si](C)(C)OCC(CC#C)(C)C | C13H26OSi
